US04943574
A mixture of 3.23 parts of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol, 2.07 parts of potassium carbonate and 20 parts of dimethyl sulfoxide was stirred for 10 minutes at room temperature. Then there were added 2.55 parts of 2-iodopropane and stirring was continued first for 15 minutes at room temperature and then for 1 hour at 50° C. The reaction mixture was evaporated. 50 Parts of water were added. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 14 parts of 1,1'-oxybisethane. The product was filtered off and dried, yielding 3.3 parts (85.5%) of 6-(1H-imidazol-1-ylmethyl)-1-(1-methylethoxy)-1H-benzotriazole; mp. 114.3° C. (compound 195).

reactant | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1 | C10H9N5O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | IC(C)C | C3H7I
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-(1H-imidazol-1-ylmethyl)-1-(1-methylethoxy)-1H-benzotriazole | 85.5% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OC(C)C)C1 | C13H15N5O
